US07109199B2
Cyclopropanecarboxylic acid (5-pyridin-3-yl-1H-pyrazolo[3,4-b]pyridin-3-yl)amide Hydrochloride Salt
Tetrakis(triphenylphosphine)palladium(0) (20 mg, 0.02 mmol) was added to a stirred and degassed solution of cyclopropanecarboxylic acid [5-(4,4,5,5,-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrazolo[3,4-b]pyridin-3-yl]amide (Description 7; 200 mg, 0.61 mmol), 3-bromopyridine (193 mg, 1.22 mmol) and potassium acetate (179 mg, 1.83 mmol) in DMF (2 mL), EtOH (1 mL) and H2O (1 mL) and the reaction mixture was stirred at 100° C. for 18 h. The reaction mixture was dissolved in EtOAc (100 mL) and washed with saturated aqueous sodium bicarbonate solution (100 mL) and brine (100 mL). The organic extracts were dried (magnesium sulfate) and concentrated. The crude residue was triturated with dichloromethane and a white solid was obtained. This solid was treated with hydrogen chloride (g) in diethyl ether to afford the corresponding salt as a powder.

reactant | cyclopropanecarboxylic acid [5-(4,4,5,5,-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrazolo[3,4-b]pyridin-3-yl]amide | 0.61 mmol, 200 mg | CC1(OB(OC1(C)C)C=1C=C2C(=NC1)NN=C2NC(=O)C2CC2)C | C16H21BN4O3
reactant | 3-bromopyridine | 1.22 mmol, 193 mg | BrC=1C=NC=CC1 | C5H4BrN
reactant | potassium acetate | 1.83 mmol, 179 mg | C(C)(=O)[O-].[K+]
reactant | hydrogen chloride | Cl | ClH
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | EtOH | 1 mL | CCO | C2H6O
solvent | H2O | 1 mL | O | H2O
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
solvent | diethyl ether | C(C)OCC | C4H10O
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.02 mmol, 20 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Cyclopropanecarboxylic acid (5-pyridin-3-yl-1H-pyrazolo[3,4-b]pyridin-3-yl)amide Hydrochloride Salt | Cl.N1=CC(=CC=C1)C=1C=C2C(=NC1)NN=C2NC(=O)C2CC2 | InChI=1S/C15H13N5O.ClH/c21-15(9-3-4-9)18-14-12-6-11(8-17-13(12)19-20-14)10-2-1-5-16-7-10;/h1-2,5-9H,3-4H2,(H2,17,18,19,20,21);1H
